US05272128
O-Isopropyl P-ethyl[[(2-chlorophenyl)sulfonyloxy]methyl]phosphinate (Compound 171)
A solution of 4.10 g of O-isopropyl P-ethyl-(hydroxymethyl)phosphinate, prepared in Example 22, Method A, 4.4 ml of triethylamine and 20 ml of methylene chloride was added dropwise over 40 minutes to a mixture of 25 ml of methylene chloride, 5.75 g of 2-chlorobenzenesulfonyl chloride, and 0.1 g of DMAP. The reaction temperature was kept between 15° C. and 28° C. during the addition. The reaction was allowed to stir at room temperature for eight days and was then diluted with 100 ml of water and 100 ml of methylene chloride. The organic phase was separated, dried with magnesium sulfate, filtered and concentrated to yield the crude product. Phosphorus NMR indicated two products in a 5:1 ratio. The crude product was dissolved in 30 ml of 1,2-dichloroethane and then 1.8 g of 3-chloroperoxybenzoic acid (MCPBA) was added. The reaction mixture was refluxed for three hours, allowed to cool to room temperature and stand overnight. The reaction mixture was diluted with 100 ml of methylene chloride. Then 100 ml of 10% of sodium sulfite solution was added, followed by the careful addition of 100 ml of saturated sodium bicarbonate solution in small portions. Once the foaming ceased small portions of solid sodium bicarbonate were added until all foaming ceased. The phases were separated, the organic phase washed with 100 ml of water, dried with magnesium sulfate, filtered and concentrated to yield 3.3 g of the crude product as an oil. The oil was dissolved in 4 ml of methylene chloride and flash chromatographed on Merck silica gel (230-400 mesh) using blends of hexanes and ethyl acetate ranging from 1/1 to 0/100 hexanes/ethyl acetate, respectively. Similar fractions were combined and concentrated to yield 2.5 g of the desired product.

reactant | O-isopropyl P-ethyl-(hydroxymethyl)phosphinate | 4.10 g | C(C)P(OC(C)C)(=O)CO | C6H15O3P
reactant | 2-chlorobenzenesulfonyl chloride | 5.75 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Phosphorus | [P] | P
reactant | 3-chloroperoxybenzoic acid | 1.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium sulfite | 100 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
catalyst | DMAP | 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.4 ml | C(C)N(CC)CC | C6H15N
product | O-Isopropyl P-ethyl[[(2-chlorophenyl)sulfonyloxy]methyl]phosphinate | 2.5 g | C(C)P(OC(C)C)(=O)COS(=O)(=O)C1=C(C=CC=C1)Cl | C12H18ClO5PS
